US07462630B2
Synthesis of N-(t-butyl)-4-[4-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-1-piperidinyl]-4-oxobutanamide:
83.2 mg (0.299 mmol) of 5-(4-piperidinyl)-10,11-dihydro-5H-dibenzo[b,f]azepine, 62.2 mg (0.359 mmol) of 4-(t-butylamino)-4-oxobutanoic acid and 82.6 mg (0.431 mmol) of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride were dissolved in 5 ml of dichloromethane. 0.06 ml (0.431 mmol) of triethylamine and 3.67 mg (0.03 mmol) of 4-dimethylaminopyridine were added to the obtained solution, and they were stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. Ethyl acetate was added thereto. After washing with 1 N aqueous hydrochloric acid solution, the organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane:methanol=9:1) to obtain the title compound.

reactant | 5-(4-piperidinyl)-10,11-dihydro-5H-dibenzo[b,f]azepine | 0.299 mmol, 83.2 mg | N1CCC(CC1)N1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H22N2
reactant | 4-(t-butylamino)-4-oxobutanoic acid | 0.359 mmol, 62.2 mg | C(C)(C)(C)NC(CCC(=O)O)=O | C8H15NO3
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.431 mmol, 82.6 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.431 mmol, 0.06 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 3.67 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(t-butyl)-4-[4-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-1-piperidinyl]-4-oxobutanamide | C(C)(C)(C)NC(CCC(=O)N1CCC(CC1)N1C2=C(CCC3=C1C=CC=C3)C=CC=C2)=O | C27H35N3O2
